US05026913
2-Amino-1-(2-mercapto-2-methylpropylamino)benzene (0.155 g, 7.91×10-4 mol) and 0.30 g (1.74×10-3 mol, 220 M %) of 2-(4-pentenylthio)-2-methylpropanal were dissolved in 40 ml methanol. Acetic acid (0.09 ml, 1.59×10-3 mol, 200M %) was added followed by 0.155 g (2.37×10-3 mol, 300 M %) sodium cyanoborohydride. The reaction was stirred at room temperature under nitrogen for 17 hr, then 20 ml 0.5 M HCl was added and the mixture was extracted with 2×40 ml diethyl ether. The ether layer was washed with 30 ml saturated NaCl solution and dried (Na2SO4), and the solvent was removed on the rotary evaporator. The product was purified by radial chromatography on a 2 mm silica plate eluting with 50 ml 100% hexane and 100 ml 90% hexane/ether to give 0.27 g (97% yield) of 2-(2-mercapto-2-methylpropylamino)-1-[2-(4-pentenylthio)-2-methylpropylamino]-benzene as an oil.

reactant | 2-Amino-1-(2-mercapto-2-methylpropylamino)benzene | 7.91×10-4 mol, 0.155 g | NC1=C(C=CC=C1)NCC(C)(C)S | C10H16N2S
reactant | 2-(4-pentenylthio)-2-methylpropanal | 1.74×10-3 mol, 220 M, 0.30 g | C(CCC=C)SC(C=O)(C)C | C9H16OS
reactant | Acetic acid | 1.59×10-3 mol, 200M, 0.09 ml | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 2.37×10-3 mol, 300 M, 0.155 g | C(#N)[BH3-].[Na+]
reactant | HCl | 0.5 M, 20 ml | Cl | ClH
solvent | methanol | 40 ml | CO | CH4O
product | 2-(2-mercapto-2-methylpropylamino)-1-[2-(4-pentenylthio)-2-methylpropylamino]-benzene | 0.27 g, 97% yield | SC(CNC1=C(C=CC=C1)NCC(C)(C)SCCCC=C)(C)C | C19H32N2S2
